US04873236
Trans-5,11-Dihydro-11-[[[2-[2-[[(4-hydroxy-cyclohexyl)methylamino]methyl]-piperidin-1-yl]ethyl]methylamino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Prepared analogously to Example 2 from 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and trans-2-[2-[[(4-hydroxy-cyclohexyl)methylamino]methyl]-piperidin-1-yl]-N-methyl-ethanamine in a yield of 24% of theory. Colourless, substantially amorphous solid substance with an approximate m.p. 105°-120° C. M.p. of the hydrochloride 210°-213° C. (D.) (acetone/isopropanol).

reactant | 11-(chlorocarbonyl)-5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | ClC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C13H8ClN3O2
reactant | trans-2-[2-[[(4-hydroxy-cyclohexyl)methylamino]methyl]-piperidin-1-yl]-N-methyl-ethanamine | O[C@@H]1CC[C@H](CC1)CNCC1N(CCCC1)CCNC | C16H33N3O
reactant | hydrochloride | Cl | ClH
solvent | acetone isopropanol | CC(=O)C.C(C)(C)O
product | Trans-5,11-Dihydro-11-[[[2-[2-[[(4-hydroxy-cyclohexyl)methylamino]methyl]-piperidin-1-yl]ethyl]methylamino]carbonyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | yield of 24% | O[C@@H]1CC[C@H](CC1)CNCC1N(CCCC1)CCN(C(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2)C | C29H40N6O3
